US07196111B2
A solution of 1.97 g (15.5 mmol) of tetrahydro-thiopyran-4-carbonitrile in 5 mL of ethanol (EtOH) was added to a solution of 6.2 g (155 mmol) of sodium hydroxide (NaOH) in 30 mL of EtOH and 15 mL of water, and the resulting mixture was heated at reflux for 4 h. The reaction mixture was cooled in an ice bath, acidified with concentrated hydrochloric acid to pH=2, and then concentrated to give a precipitate which was filtered to afford 1.36 g (60%) of desired tetrahydro-thiopyran-4-carboxylic acid as a brown crystalline solid as indicated by 1H NMR.

reactant | tetrahydro-thiopyran-4-carbonitrile | 15.5 mmol, 1.97 g | S1CCC(CC1)C#N | C6H9NS
reactant | sodium hydroxide | 155 mmol, 6.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | EtOH | 30 mL | CCO | C2H6O
solvent | water | 15 mL | O | H2O
product | tetrahydro-thiopyran-4-carboxylic acid | 1.36 g, 60% | S1CCC(CC1)C(=O)O | C6H10O2S
